US04255509
Synthesis of 2,5-dimethyl-4-aminobenzenesulfonic acid
To 121 g of 2,5-dimethylaniline, 100 g of sulfuric acid (d=1.84) was gradually added dropwise and the mixture was heated at 220° to 230° C. on an oil bath for 5 hours. To the reaction mixture, 2 l of an 1 N aqueous potasium hydroxide solution was added and the mixture was stirred with heating. After filtering the mixture while hot, 1 kg of hydrochloric acid (d=1.18) was added to the filtrate. The crystals thus precipitated were collected by filtration and washed with 1 l of acetone.

reactant | 2,5-dimethylaniline | 121 g | CC1=C(N)C=C(C=C1)C | C8H11N
reactant | sulfuric acid | 100 g | S(O)(O)(=O)=O | H2O4S
reactant | potasium hydroxide | 1 N | [OH-].[K+]
product | 2,5-dimethyl-4-aminobenzenesulfonic acid | CC1=C(C=C(C(=C1)N)C)S(=O)(=O)O | C8H11NO3S
